US06380220B1
a) 1-(2-Naphthylsulfonyl)piperidine-4-carboxylic acid
26.0 g (0.2 mol) of piperidine-4-carboxylic acid were dissolved in 250 ml of pyridine and the solution was treated with 47.6 g (0.2 mol) of 2-naphthylsulfonyl chloride in portions at room temperature. The whole was stirred at room temperature for about 5 h. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and 2 M hydrochloric acid. The organic phase was dried and concentrated under reduced pressure. 48.5 g (75%) of the product were obtained.

reactant | piperidine-4-carboxylic acid | 0.2 mol, 26.0 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | 2-naphthylsulfonyl chloride | 0.2 mol, 47.6 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-Naphthylsulfonyl)piperidine-4-carboxylic acid | 48.5 g, 75% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCC(CC1)C(=O)O | C16H17NO4S
